US04154834
3-quinolineacrylate (51.68 g) was dissolved in ethanol (170 ml) and hydrogenated at 37° and a pressure of 50 psi using 10% Palladium on charcoal to give ethyl 3-quinolinepropionate.

reactant | 3-quinolineacrylate | 51.68 g | N1=CC(=CC2=CC=CC=C12)C=CC(=O)[O-]
reactant | ethanol | 170 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | [Pd] | Pd
product | ethyl 3-quinolinepropionate | N1=CC(=CC2=CC=CC=C12)CCC(=O)OCC | C14H15NO2
